data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3103,3493,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[c-:7]1[nH+:8][c:9]([C:10]([CH3:11])=[O:12])[o:13][c:14]1=[O:15]>>[CH2:1]1[CH2:2][C:7]2([C:5]([O:4][CH3:3])=[O:6])[NH:8][C:9]1([C:10]([CH3:11])=[O:12])[O:13][C:14]2=[O:15],water,298.15,23.77512234192677,-8.795357344624495
1218,1327,[CH3:17][C:18](=[O:19])[C-:20]([CH3:21])[NH+:22]=[CH:23][C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[C:20]([C:18]([CH3:17])=[O:19])([CH3:21])[NH:22][CH:23]1[C:24]#[N:25],water,298.15,12.113566863447607,-12.56136677510455
3667,4187,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:11]#[N:10])=[N:13][N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,11.366447792137446,-41.66562723001475
509,556,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:19]([C:20]#[N:21])[NH:18][C:16]3([C:14]([NH:13][CH3:12])=[O:15])[CH3:17],water,298.15,12.355054698030743,-47.96933620398999
2475,2743,[CH3:18][NH:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[N+:25]([CH3:26])[C-:27]([C:28](=[O:29])[NH:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:23]#[N:24])[N:25]([CH3:26])[C:27]2([C:28](=[O:29])[NH:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35],water,298.15,23.194944736206608,-49.16331007515579
2851,3169,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[O:20][CH3:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:24]([CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:22]([CH3:23])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18](=[O:19])[O:20][CH3:21],water,298.15,28.595613089837663,-26.926125723936742
1805,1997,[CH3:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:20][C:17]2([C:15]([CH3:14])=[O:16])[C:18]#[N:19],water,298.15,12.4803812698316,-62.49552199099516
4431,5063,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,14.663666114562991,-27.70385524596098
3,3,[CH3:4][C:5](=[O:6])[C:7]#[N+:8][O-:9].[CH:1]#[C:2][CH3:3]>>[cH:1]1[c:2]([CH3:3])[c:7]([C:5]([CH3:4])=[O:6])[n:8][o:9]1,water,298.15,23.6870788323347,-62.48128935839341
1243,1359,[CH3:14][NH:15][C:16](=[O:17])[c:18]1[nH+:19][c-:20]([C:21]#[N:22])[c:23](=[O:24])[o:25]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]1([C:16]([NH:15][CH3:14])=[O:17])[NH:19][C:20]2([C:21]#[N:22])[C:23](=[O:24])[O:25]1,water,298.15,24.69717275089929,-17.953501740614353
2615,2898,[CH3:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[C:34]([CH3:35])=[O:36].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:22]([C:20]([CH3:19])=[O:21])([C:34]([CH3:35])=[O:36])[NH:23][C:24]2([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,22.63207630844993,-25.50254964988656
